US08957205B2
2-[4-(4-Morpholinylmethyl)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one
18 ml of 2N sodium hydroxide aqueous solution was added to a solution of 2.07 g (5.7 mmol) of 1-[[[4-(4-morpholinylmethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester in 18 ml of tetrahydrofuran, and the mixture was refluxed under heating overnight. After the mixture was neutralized by concentrated hydrochloric acid, the reaction solution was distilled off under reduced pressure. 30 ml of methylene chloride, 1.74 g (17 mmol) of triethylamine and 1.65 g (8.6 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride were added to the residue, and the mixture was stirred for 1 hour. The reaction solution was distilled off under reduced pressure, a saturated aqueous sodium bicarbonate solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 1.27 g (60%) of the title compound.

reactant | sodium hydroxide | 2N, 18 ml | [OH-].[Na+]
reactant | 1-[[[4-(4-morpholinylmethyl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester | 5.7 mmol, 2.07 g | COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)CN1CCOCC1 | C20H28N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | triethylamine | 17 mmol, 1.74 g | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 8.6 mmol, 1.65 g | Cl.C(C)N=C=NCCCN(C)C
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(4-Morpholinylmethyl)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 1.27 g, 60% | N1(CCOCC1)CC1=CC=C(C=C1)C1=NC2(C(O1)=O)CCCCC2 | C19H24N2O3
